US08445515B2
Na(OAC)3BH (495 mg, 2.33 mmol) was added to a solution of the (2R,3S)-2-(4-aminophenyl)-1-(2-methylbenzoyl)piperidine-3-carboxylic acid ethyl ester (612 mg, 1.67 mmol), cyclopentanone (140 mg, 1.67 mmol) and acetic acid (100 mg, 1.67 mmol) in dry dichloroethane at r.t and the reaction mixture was heated to 50° C. for 4 h, cooled to r.t and stirred for 48 h. It was then diluted with CH2Cl2 (30 mL), washed with saturated aqueous NaHCO3 solution, dried and concentrated in vacuo. The residue was purified by ISCO flash column using ethyl acete and hexanes as mobile phase (40 g column, 0-40% gradient) to afford (2R,3S)-2-(4-Cyclopentylaminophenyl)-1-(2-methylbenzoyl)piperidine-3-carboxylic acid ethyl ester (450 mg).

reactant | (2R,3S)-2-(4-aminophenyl)-1-(2-methylbenzoyl)piperidine-3-carboxylic acid ethyl ester | 1.67 mmol, 612 mg | C(C)OC(=O)[C@@H]1[C@@H](N(CCC1)C(C1=C(C=CC=C1)C)=O)C1=CC=C(C=C1)N | C22H26N2O3
reactant | cyclopentanone | 1.67 mmol, 140 mg | C1(CCCC1)=O | C5H8O
reactant | acetic acid | 1.67 mmol, 100 mg | C(C)(=O)O | C2H4O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S)-2-(4-Cyclopentylaminophenyl)-1-(2-methylbenzoyl)piperidine-3-carboxylic acid ethyl ester | 450 mg | C(C)OC(=O)[C@@H]1[C@@H](N(CCC1)C(C1=C(C=CC=C1)C)=O)C1=CC=C(C=C1)NC1CCCC1 | C27H34N2O3
